US08084451B2
Ethyl 4,5-diphenyl-2-oxazolecarboxylate (Int O)
Ethyl oxalyl chloride (1.1 mL, 10 mmol) will be added dropwise to a stirring solution of 2-hydroxy-1,2-diphenyl ethanone (2.12 g, 10 mmol) and triethyl amine (2.2 mL, 16 mmol) in anhydrous THF (50 mL) under argon. After stirring for 45 min the mixture will be filtered and concentrated, and NH4OAC (4 g, 50 mmol) and acetic acid (50 mL) will be added. The mixture will be heated to reflux for 6 h. The reaction will be brought to room temperature and water will be added and extracted with dichloromethane and the residue will be subjected to column chromatography to yield the title compound.

reactant | 2-hydroxy-1,2-diphenyl ethanone | 10 mmol, 2.12 g | OC(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C14H12O2
reactant | triethyl amine | 16 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | Ethyl 4,5-diphenyl-2-oxazolecarboxylate | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C(=O)OCC | C18H15NO3
